US08445684B2
tert-Butyl 2-(3-Bromophenethoxy)acetate
To a mixture of 2-(3-bromophenyl)ethanol (3.40 g, 16.9 mmol), tert-butyl 2-bromoacetate (26.0 g, 133 mmol, 8.0 equiv.), tetra-n-butylammonium hydrogen sulfate (4.52 g, 13.3 mmol, 0.80 equiv.), and 84 mL of toluene was added 267 mL of 5N aqueous NaOH solution. The reaction mixture was stirred at room temperature for 3 h. The aqueous layer was then extracted with four portions of EtOAc, dried (MgSO4), and evaporated. The residue was purified by CC on silica gel with EtOAc/petroleum ether 1:40 to afford the title compound (4.8 g, 90%) as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ 7.42 (s, 1H), 7.35-7.39 (m, 1H), 7.18-7.20 (m, 2H), 3.98 (s, 2H), 3.76 (t, 2H, J=6.9 Hz), 2.94 (t, 2H, J=7.2 Hz), 1.50 (s, 9H).

reactant | 2-(3-bromophenyl)ethanol | 16.9 mmol, 3.40 g | BrC=1C=C(C=CC1)CCO | C8H9BrO
reactant | tert-butyl 2-bromoacetate | 133 mmol, 26.0 g, 8.0 equiv. | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | NaOH | 5N, 267 mL | [OH-].[Na+]
catalyst | tetra-n-butylammonium hydrogen sulfate | 13.3 mmol, 4.52 g, 0.80 equiv. | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 84 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 2-(3-Bromophenethoxy)acetate | 4.8 g, 90% | BrC=1C=C(CCOCC(=O)OC(C)(C)C)C=CC1 | C14H19BrO3
